US04112112
A solution of 9-amino-11-(3-dimethylaminopropylidene)-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepine in triethyl orthoformate (2.8 g.; 10 mmoles in 80 ml.) was refluxed for 5 hours. The volatiles were removed under vacuum and the residue dissolved in 100 ml. of absolute ethanol was stirred in an ice bath as sodium borohydride (0.88 g., 0.024 moles) was added over a period of 10 minutes. The mixture was stirred for a period of 2 hours. After concentration of the ethanol, the residue was dissolved in ethyl acetate, washed with water, dried over Na2SO4 and concentrated to dryness to yield 9-methylamino-11-(3-dimethylaminopropylidene)-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepine.

reactant | 9-amino-11-(3-dimethylaminopropylidene)-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepine | NC1=CC2=C(CCN3C(C2=CCCN(C)C)=CC=C3)C=C1 | C18H23N3
reactant | triethyl orthoformate | 10 mmoles, 80 ml, 2.8 g | C(OCC)(OCC)OCC | C7H16O3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | 0.024 moles, 0.88 g | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-methylamino-11-(3-dimethylaminopropylidene)-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepine | CNC1=CC2=C(CCN3C(C2=CCCN(C)C)=CC=C3)C=C1 | C19H25N3
